US05635527
t-Butyl β-[4-(benzyloxycarbonylamino)cyclohexyl]acrylate (7.00 g, 19.5 mmol) was dissolved in methanol (200 ml) and 10% palladium-carbon (700 mg) was added. The mixture was stirred at room temperature for 24 hours under a hydrogen atmosphere. The reaction mixture was filtrated and low boiling matters were distilled away from the filtrate under reduced pressure. The residue was washed with a mixed solution of n-hexane and ethyl acetate to give 3.78 g of t-butyl 3-(4-aminocyclohexyl)propionate as a colorless solid (85%).

reactant | t-Butyl β-[4-(benzyloxycarbonylamino)cyclohexyl]acrylate | 19.5 mmol, 7.00 g | C(C1=CC=CC=C1)OC(=O)NC1CCC(CC1)C=CC(=O)OC(C)(C)C | C21H29NO4
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-carbon | 700 mg | [C].[Pd]
product | t-butyl 3-(4-aminocyclohexyl)propionate | 3.78 g, 85% | NC1CCC(CC1)CCC(=O)OC(C)(C)C | C13H25NO2
